US07087597B1
5-methoxy-2,3-dihydro-1H-indole
To a solution of 5-methoxyindole (528 mg, 3.6 mmol) in acetic acid (5 mL) was added sodium cyanoborohydride (452 mg, 7.2 mmol) by small portions at room temperature and the mixture was stirred for 18 h in situ. The solvent was evaporated under reduced pressure and the obtained residue was dissolved in ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution (×3) and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give almost pure title compound (503 mg, 94%).

reactant | 5-methoxyindole | 3.6 mmol, 528 mg | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | sodium cyanoborohydride | 7.2 mmol, 452 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 5-methoxy-2,3-dihydro-1H-indole | 503 mg, 94% | COC=1C=C2CCNC2=CC1 | C9H11NO
